US07230099B2
Step B: Preparation of [3-(1,3-Dioxo-1,3-dihydro-isoindol-2-yloxy)-2,2-dimethyl-propyl]-carbamic acid tert-butyl ester.
Diethylazodicarboxylate (8.26 mL, 52.4 mmol) was added to a solution of (3-hydroxy-2,2-dimethyl-propyl)-carbamic acid tert-butyl ester (10.2 g, 49.9 mmol), N-hydroxyphthalimide (8.15 g, 49.9 mmol) and triphenylphosphine (13.1 g, 49.9 mmol) in THF (200 mL). The solution was stirred at room temperature for 16 hours after which time it was diluted with dichloromethane and passed through a plug of silica gel, eluting with dichloromethane. The product containing fractions were concentrated to a yellow liquid, which was further purified by flash column chromatography (dichloromethane to 4:1 dichloromethane/ethyl acetate) to provide pure desired product (1.98 g, 11%) as a waxy white solid.

reactant | Diethylazodicarboxylate | 52.4 mmol, 8.26 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (3-hydroxy-2,2-dimethyl-propyl)-carbamic acid tert-butyl ester | 49.9 mmol, 10.2 g | C(C)(C)(C)OC(NCC(CO)(C)C)=O | C10H21NO3
reactant | N-hydroxyphthalimide | 49.9 mmol, 8.15 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 49.9 mmol, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [3-(1,3-Dioxo-1,3-dihydro-isoindol-2-yloxy)-2,2-dimethyl-propyl]-carbamic acid tert-butyl ester | 1.98 g, 11% | C(C)(C)(C)OC(NCC(CON1C(C2=CC=CC=C2C1=O)=O)(C)C)=O | C18H24N2O5
